US05880147
Methyl 4-t-butyl-3-nitrobenzoate
13 ml (0.15 mol) of oxalyl chloride were added, with ice-cooling, to a solution of 20.9 g (0.094 mol) of 4-t-butyl-3-nitrobenzoic acid in 200 ml of methylene chloride, and then 0.3 ml of dimethylformamide was added to the resulting mixture. After this addition, the temperature of the reaction mixture was allowed to rise to room temperature, and the mixture was then stirred at room temperature for 4 hours. At the end of this time, any excess of the reagent and the solvent were removed by distillation under reduced pressure, and the residue was again dissolved in 150 ml of methylene chloride. 19 ml (0.25 mol) of pyridine and 6.0 ml (0.15 mol) of methanol were then added, with ice-cooling, to the solution, and the resulting mixture was stirred for 30 minutes with ice-cooling and then at room temperature for 30 minutes. At the end of this time, the reaction was quenched by adding water, the solvent was removed by distillation under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed with 2N aqueous hydrochloric acid, with water, with a saturated aqueous solution of sodium hydrogencarbonate and with water, in that order, and the solvent was removed by distillation under reduced pressure, to give 22.7 g of the title compound as an oily substance.

reactant | oxalyl chloride | 0.15 mol, 13 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-t-butyl-3-nitrobenzoic acid | 0.094 mol, 20.9 g | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO4
reactant | pyridine | 0.25 mol, 19 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | 0.15 mol, 6.0 ml | CO | CH4O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | Methyl 4-t-butyl-3-nitrobenzoate | 22.7 g | C(C)(C)(C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H15NO4
